US06656938B2
1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (750 mg, 2.28 mmol) was dissolved in 30 mL of anhydrous CH2Cl2 and cooled to 0° C. under N2. The reaction mixture was then treated with phenyl isocyanate (247 μL, 2.28 mmol) and Et3N (0.64 mL, 4.56 mmol) and allowed to warm slowly to room temperature. After stirring for 2 h, the reaction mixture was concentrated under reduced pressure to yield a yellow solid. The yellow solid was dissolved in a minimum amount of CH2Cl2 and EtOAc was added until the solution became turbid. The mixture was placed in a freezer overnight and white crystal formed. The crystals were isolated by filtration and were dried under vacuum to give 126 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)-N-phenylurea. mp 171.0-174.0° C.;

reactant | 1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.28 mmol, 750 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O2
reactant | phenyl isocyanate | 2.28 mmol, 247 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Et3N | 4.56 mmol, 0.64 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)-N-phenylurea | 126 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCN(C(=O)N)C2=CC=CC=C2)CCOC | C24H28N6O3
